US08236963B2
Intermediate 37: benzyl 2-{[(benzyloxy)carbonyl]oxy}-5-chloro-1H-indole-1-carboxylate (cf. Scheme 9, compound XX)
To an ice-cold solution of 5-chlorooxindole (16.75 g; 100 mmol) and triethylamine (30.50 ml; 220 mmol) in THF (360 ml) was added dropwise benzyl chloroformate (37.9 ml; 240 mmol). After stirring at room temperature for 6 h, water was added and the organic phase was separated, washed again with brine, dried (MgSO4) and removed in vacuo to give a solid residue which was purified by recrystallisation (ethyl acetate), to give the title compound in 61% yield (HPLC purity 89%).

reactant | 5-chlorooxindole | 100 mmol, 16.75 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | triethylamine | 220 mmol, 30.50 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 240 mmol, 37.9 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | water | O | H2O
solvent | THF | 360 ml | C1CCOC1 | C4H8O
product | benzyl 2-{[(benzyloxy)carbonyl]oxy}-5-chloro-1H-indole-1-carboxylate | 61% yield | C(C1=CC=CC=C1)OC(=O)OC=1N(C2=CC=C(C=C2C1)Cl)C(=O)OCC1=CC=CC=C1 | C24H18ClNO5
